US04372953
Aluminum chloride (16 g, 0.12 mol) is suspended in carbon tetrachloride (80 ml) and 6-chlorohexanoyl chloride (20 g, 0.12 mol) is added dropwise to the suspension with ice-cooling. After completion of addition, the mixture is stirred for 15 minutes and benzene (7.8 g, 0.1 mol) is added dropwise to the mixture with ice-cooling. After stirring with ice-cooling for 1 hour, the mixture is poured into ice-hydrochloric acid and extracted with carbon tetrachloride. The carbon tetrachloride extract is washed with water, saturated aqueous sodium bicarbonate, water and then saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The dried solution is distilled to obtain 5-chloropentyl phenyl ketone (7.3 g), b.p. 143°-150° C./0.5 mmHg.

reactant | Aluminum chloride | 0.12 mol, 16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-chlorohexanoyl chloride | 0.12 mol, 20 g | ClCCCCCC(=O)Cl | C6H10Cl2O
reactant | benzene | 0.1 mol, 7.8 g | C1=CC=CC=C1 | C6H6
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloropentyl phenyl ketone | 7.3 g | C1(=CC=CC=C1)C(=O)CCCCCCl | C12H15ClO
